US04426386
3-(3-Methoxyphenyl)pyrrolidine (8.86 g, 0.050 mol) and triethylamine (5.57 g, 0.055 mol) was dissolved in 500 ml of dry ether. The solution was cooled to 0° C. and propionyl chloride (5.09 g, 0.055 mol) was added dropwise with stirring. The reaction mixture was then allowed to acquire ambient temperature, whereafter it was refluxed for 30 minutes. Triethylamine hydrochloride was filtered off, and the filtrate was evaporated leaving 11.7 g (100%) of crude N-propionyl-3-(3-methoxyphenyl)pyrrolidone, which was used in the next reaction step without further purification. The crude amide (11.7 g, 0.050 mol) was reduced with LiAlH4 (2.85 g, 0.075 mol) in refluxing ether (200 ml) for 24 hours. Work-up of the reaction mixture afforded 10 g of product, which upon distillation in vacuo yielded 9.1 g ((83%) of N-propyl-3-(3-methoxyphenyl)-pyrrolidone b.p. 85°-86° C./0.1 mm Hg. MS: m/e 219 (M+, 12%) 190 (M--C2H5, 100%).

reactant | 3-(3-Methoxyphenyl)pyrrolidine | 0.050 mol, 8.86 g | COC=1C=C(C=CC1)C1CNCC1 | C11H15NO
reactant | triethylamine | 0.055 mol, 5.57 g | C(C)N(CC)CC | C6H15N
reactant | propionyl chloride | 0.055 mol, 5.09 g | C(CC)(=O)Cl | C3H5ClO
reactant | ether | 500 ml | CCOCC | C4H10O
product | N-propionyl-3-(3-methoxyphenyl)pyrrolidone | 11.7 g, 100% | C(CC)(=O)N1C(C(CC1)C1=CC(=CC=C1)OC)=O | C14H17NO3
